US08748443B2
Part A. Preparation of 1-(3-tert-butyl-5-iodo-4-methoxyphenyl)imidazolidine-2,4-dione
3-tert-Butyl-5-iodo-4-methoxyaniline (915 mg, 3.0 mmol) and chloroacetyl isocyanate (0.256 mL, 3.00 mmol) were reacted in the same manner as Example 14 Part A to give crude product which was purified on an Isco 40 g silica cartridge eluting with methanol/dichloromethane (0% to 5%) to give the title compound.

reactant | 3-tert-Butyl-5-iodo-4-methoxyaniline | 3.0 mmol, 915 mg | C(C)(C)(C)C=1C=C(N)C=C(C1OC)I | C11H16INO
reactant | chloroacetyl isocyanate | 3.00 mmol, 0.256 mL | ClCC(=O)N=C=O | C3H2ClNO2
product | 1-(3-tert-butyl-5-iodo-4-methoxyphenyl)imidazolidine-2,4-dione | C(C)(C)(C)C=1C=C(C=C(C1OC)I)N1C(NC(C1)=O)=O | C14H17IN2O3
